datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29])[H:9])([H:7])[H:8],-7.1128
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[C:11]([H:12])([H:13])[H:14]>>[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:7][C:11]([H:12])([H:13])[H:14],0.0
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[O:15][O:16][H:17]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])([H:8])[O:15][O:16][H:17])([H:5])([H:6])[H:7],22.5936
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[S:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:12](=[S:13])[H:14],32.2168
[C:1](=[C:2]1[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]2[C:11]([H:12])=[C:13]([H:14])[C:15]([H:16])=[C:17]([H:18])[C:19]12[H:21])([H:20])[H:22]>>[C:1](=[C:2]1[C:4]([H:5])[C:6]([H:7])([H:8])[c:9]2[c:11]([H:12])[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]21)([H:20])[H:22].[H:21],82.332752
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:27]([H:28])([H:29])[H:30]>>[C:0]([C:1]([C:2]([C:3]1[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:16][C:27]([H:28])([H:29])[H:30],37.262704
[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([c:7]1[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]([H:16])[c:17]1[H:19])([H:20])[H:21])([H:22])[H:23])([H:24])[H:25])([H:26])[H:27])([H:28])[H:29])([H:30])([H:31])[H:32].[H:33]>>[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]1([H:33])[C:9]([H:10])=[C:11]([H:12])[C:13]([H:14])[C:15]([H:16])=[C:17]1[H:19])([H:20])[H:21])([H:22])[H:23])([H:24])[H:25])([H:26])[H:27])([H:28])[H:29])([H:30])([H:31])[H:32],25.4744
[C:13](=[C:14]([H:16])[H:17])[H:15].[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13](=[C:14]([H:16])[H:17])[H:15].[O:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:14])[O:18][O:19])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],-2.244716
[O:0]=[S:1][H:2].[O:3]>>[O:0]=[S:1]([H:2])[O:3],-0.2092
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12]([C:13]([H:24])([H:25])[H:26])([c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:23])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:23])[H:6].[C:11]([C:12]([C:13]([H:24])([H:25])[H:26])[c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])([H:20])([H:21])[H:22],34.3088
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[O:16][H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:5][O:16][H:17],0.0
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]#[C:7][H:14])[C:8](=[C:9]([H:16])[H:17])[H:15])[H:10].[H:18]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]#[C:7][H:14])[C:8](=[C:9]([H:16])[H:17])[H:15])[H:18])[H:10],8.40984
[C:0]([C:1](=[C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:8])([H:9])[H:10],136.273
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14])[H:6],48.2834
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](=[C:10][C:11](=[S:12])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10](=[C:9]([H:13])[H:14])[C:11](=[S:12])[H:15],52.7184
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:17]([C:16]([H:20])([H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:8],-4.64424
